US07504392B2
a) 3-Ethoxy-benzaldehyde
To a solution of 2-hydroxybenzaldehyde (20 g, 163 mmol) in acetone (250 mL) was added anhydrous potassium carbonate (33 g, 239 mmol) followed by ethyl iodide (17 mL, 211 mmol). The mixture was heated at reflux for 12 hours. After cooling to room temperature water and ethyl acetate were added. The organic layer was removed, dried over MgSO4 and evaporated to dryness yielding the subtitled compound as a yellow oil (22.10 g). 1H NMR δ (CDCl3) 1.40-1.50 (3H, t), 4.024.15 (2H, q), 7.13-7.22 (1H, m), 7.36-7.48 (3H, m), 9.97 (1H, s).

reactant | 2-hydroxybenzaldehyde | 163 mmol, 20 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | potassium carbonate | 239 mmol, 33 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 211 mmol, 17 mL | C(C)I | C2H5I
reactant | water | O | H2O
solvent | acetone | 250 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Ethoxy-benzaldehyde | 22.10 g | C(C)OC=1C=C(C=O)C=CC1 | C9H10O2
